US09212190B2
To a solution of [(3S)-12-[(4-[2-oxa-6-azaspiro[3.3]heptan-6-yl]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]methanol (250 mg, 0.62 mmol, 1.00 equiv) and TEA (188 mg, 1.86 mmol, 2.99 equiv) in dichloromethane (10 mL) was added MsCl (142 mg, 1.25 mmol, 2.00 equiv) and the resulting mixture was stirred for 1 h at 25° C. under nitrogen. After completion, the reaction was quenched with water and extracted with 3×50 mL of ethyl acetate. The organic layers were combined, washed with brine and dried over anhydrous sodium sulfate. The solvents were concentrated under reduced pressure vacuum to afford [(3S)-12-[(4-[2-oxa-6-azaspiro[3.3]heptan-6-yl]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]methyl methanesulfonate (250 mg, crude) as a yellow oil.

reactant | [(3S)-12-[(4-[2-oxa-6-azaspiro[3.3]heptan-6-yl]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]methanol | 0.62 mmol, 250 mg, 1.00 equiv | C1OCC12CN(C2)C2CCC(CC2)OC=2N=CN=C1SC=3CC[C@@H](C3C21)CO | C21H27N3O3S
reactant | MsCl | 1.25 mmol, 142 mg, 2.00 equiv | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | [(3S)-12-[(4-[2-oxa-6-azaspiro[3.3]heptan-6-yl]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]methyl methanesulfonate | 250 mg | CS(=O)(=O)OC[C@@H]1C=2C3=C(N=CN=C3SC2CC1)OC1CCC(CC1)N1CC2(COC2)C1 | C22H29N3O5S2
